US06756382B2
Tert-butyl N-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate (14.8 g, 45.2 mmol), trifluoroacetic acid (100 mL) and acetonitrile (100 mL) were combined and maintained at ambient temperature overnight. The acetonitrile was removed and the reaction mixture was heated at reflux for 2 hours. The reaction mixture was concentrated under vacuum to provide a tan solid. This material was dissolved in a minimal amount of hot water. The solution was adjusted to pH 14 and allowed to cool. The solution was concentrated under vacuum. The resulting residue was extracted with refluxing ethanol. The ethanol extract was concentrated under vacuum to provide 3.0 g of 1-(2-aminoethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan solid, m.p. 265° C. 1H NMR (500 MHz, DMSO-d6) δ 8.14 (s, 1H), 8.08 (dd, J=8.0, 1.5 Hz, 1H), 7.62 (dd, J=8.0, 1.5 Hz, 1H), 7.44 (dt, J=8.0, 1.5 Hz, 1H), 7.25 (dt, J=8.0, 1.5 Hz, 1H), 6.58 (broad s, 2H), 4.54 (t, J=7.0 Hz, 2H), 3.01 (t, J=7.0 Hz, 2H), 1.60 (broad s, 2H); MS (EI) m/e 227.1171(227.1171 calcd for C12H13N5).

reactant | Tert-butyl N-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 45.2 mmol, 14.8 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCNC(OC(C)(C)C)=O | C17H21N5O2
reactant | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(2-aminoethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.0 g | NCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C12H13N5
